US08137821B2
2-Bromo-5-fluoro-aniline (5.00 g, 95 mass % article, 25.0 mmol), m-nitrobenzenesulfonic acid (2.65 g, 13.1 mmol), 20.0 mL of 85 wt % aqueous phosphoric acid solution and ferrous sulfate heptahydrate (69.5 mg, 0.250 mmol) were placed in a 100 mL three-neck flask equipped with a magnetic stirrer, a reflux condenser, a thermometer and a dropping funnel and the mixture was heated to 80° C. in an oil bath. Subsequently, 2-butylacrolein (7.44 g, 98 mass % article, 65.0 mmol) was added dropwise thereto through the dropping funnel for 1 hour. After completion of the dropwise addition, the mixture was heated and stirred at 100° C. for 2 hours. Then, the reaction mixture was poured into water and neutralized to pH 7 by ammonia water. The neutralized liquid was extracted with dichloromethane and then, dichloromethane was removed under reduced pressure. The resulting crude reaction product was purified by column chromatography (Hexane/AcOEt=100/0→1/1) using silica gel, followed by drying under reduced pressure to give 1.35 g of 8-bromo-3-butyl-5-fluoroquinoline as a brown solid (yield: 19.2%).

reactant | 2-Bromo-5-fluoro-aniline | 25.0 mmol, 5.00 g | BrC1=C(N)C=C(C=C1)F | C6H5BrFN
reactant | m-nitrobenzenesulfonic acid | 13.1 mmol, 2.65 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)O | C6H5NO5S
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | 2-butylacrolein | 65.0 mmol, 7.44 g | C(CCC)C(C=O)=C | C7H12O
reactant | ammonia water | O.N
solvent | water | O | H2O
product | 8-bromo-3-butyl-5-fluoroquinoline | 1.35 g, yield: 19.2% | BrC=1C=CC(=C2C=C(C=NC12)CCCC)F | C13H13BrFN
